US08106064B2
3-{3-[2-Chloro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-benzaldehyde (133):
A mixture of 1-[2-chloro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-1 H-pyrimidine-2,4-dione (908 mg, 1.53 mmol), PPTS (77 mg, 0.31 mmol), and water (7 drops) in acetone (10 ml) was heated under reflux for 3 hr. After cooling to room temperature, the mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:2)) to afford 350 mg (50%) of a white foam. 1H NMR (200 MHz, CDCl3) δ 1.11 (6H, d, J=6.8 Hz), 2.40 (3H, s), 2.68 (1H, m), 3.80 (3H, s), 4.29 (2H, d, J=5.4 Hz), 4.72 (2H, s), 5.02 (1H, t, J=5.4 Hz), 6.01 (1H, s), 6.26 (1H, s), 6.85-6.89 (3H, m), 7.09 (1H, s), 7.21-7.27 (2H, m), 7.40 (1H, s), 8.98 (1H, s), 9.89 (1H, s).

reactant | 1-[2-chloro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-1 H-pyrimidine-2,4-dione | 1.53 mmol, 908 mg | ClC1=NC(=CC(=C1)CN1C(NC(C(=C1OC1=CC(=CC(=C1)C)C1OCCO1)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C31H33ClN4O6
reactant | PPTS | 0.31 mmol, 77 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
catalyst | water | 7 drops | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-{3-[2-Chloro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-benzaldehyde | 350 mg, 50% | ClC1=NC(=CC(=C1)CN1C(NC(C(=C1OC=1C=C(C=O)C=C(C1)C)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C29H29ClN4O5
